US07759518B2
2,5-Dichloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-3-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine was reacted with 2,5-dichlorothiophene-3-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.41 (dd, J=1.5 & 10.5 Hz, 1H), 7.28-7.20 (m, 2H), 7.08 (dd, J=9.0 & 17.4 Hz, 2H), 6.99 (s, 1H), 6.03 (dt, J=2.1, 8.7 & 17.4 Hz, 1H), 5.56 (br s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene 1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 2,5-dichlorothiophene-3-sulfonyl chloride | ClC=1SC(=CC1S(=O)(=O)Cl)Cl | C4HCl3O2S2
product | 2,5-Dichloro-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-3-sulfonamide | ClC=1SC(=CC1S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)Cl | C16H8Cl2F3IN2O2S2
